US05037894
Reaction of Flame Retardant A with Octadecene/Maleic Anhydride Copolymer
5.6 g PA-18 (0.02 equivalents as maleic anhydride, hereinafter "anhydride equivalents") and 100 ml xylene were mixed in a 250 ml flask equipped with a nitrogen atmosphere and a Dean Stark trap. This mixture was refluxed for 30 minutes to dry the polymer. The mixture was cooled slightly and Flame Retardant A (of Example 1) (5.1 g, 0.01 mole) was added. The mixture was refluxed for 2 hours with azeotropic removal of water as it formed. The solvent was stripped using aspirator and high vacuum systems to yield 10.4 g of yellow crystals. The infrared spectrum of this compound showed the N-(acylamino)imide carbonyl bands merged at 1710 cm-1 and a small residual anhydride carbonyl band at 1770 cm1. The hydrazide carbonyl for the starting material was not observed in the product spectrum.

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Octadecene Maleic Anhydride | 10.4 g | C=CCCCCCCCCCCCCCCCC.C1(\C=C/C(=O)O1)=O | InChI=1S/C18H36.C4H2O3/c1-3-5-7-9-11-13-15-17-18-16-14-12-10-8-6-4-2;5-3-1-2-4(6)7-3/h3H,1,4-18H2,2H3;1-2H
